*** Spice netlist generated by cell2spice.pl from cell file OAAAOI2132.cell ***

.subckt OAAAOI2132 VDD GND D1 D C2 C1 C B A1 A Y
M0 N5 D1 VDD VDD pmos w=1.32u l=0.6u
M1 N5 D VDD VDD pmos w=1.32u l=0.6u
M2 N2 C2 N5 VDD pmos w=1.32u l=0.6u
M3 N2 C1 N5 VDD pmos w=1.32u l=0.6u
M4 N2 C N5 VDD pmos w=1.32u l=0.6u
M5 N1 B N2 VDD pmos w=1.32u l=0.6u
M6 N A1 N2 VDD pmos w=1.32u l=0.6u
M7 Y A N VDD pmos w=1.32u l=0.6u
M8 N6 D1 GND GND nmos w=1.83u l=0.5u
M9 N5 D N6 GND nmos w=1.83u l=0.5u
M10 N4 C2 GND GND nmos w=1.83u l=0.5u
M11 N3 C1 N4 GND nmos w=1.83u l=0.5u
M12 N2 C N3 GND nmos w=1.83u l=0.5u
M13 N1 B GND GND nmos w=1.83u l=0.5u
M14 Y A1 N1 GND nmos w=1.83u l=0.5u
M15 Y A N1 GND nmos w=1.83u l=0.5u
.ends OAAAOI2132

